US20010007873A1
B. 3-Cyclobutyl-phenol
Under a N2 atmosphere in 50 ml of ethanol (EtOH) were combined 1-(3-benzyloxy-phenyl)-cyclobutanol (6 g, 23.6 mmol) and 10% palladium on carbon (Pd/C) (1.5 g). A resultant mixture was hydrogenated (J.A.C.S., 90, 3404-3415,1968) at 40 psi for 24 hours. The reaction mixture was filtered through a pad of celite and concentrated under vacuo. The crude product was chromatographed on 120 g of silica gel using hexanes-ethyl acetate to afford 2.9 g (83%) of the title comound as a colorless oil.

reactant | 1-(3-benzyloxy-phenyl)-cyclobutanol | 23.6 mmol, 6 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(CCC1)O | C17H18O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
product | 3-Cyclobutyl-phenol | C1(CCC1)C=1C=C(C=CC1)O | C10H12O
